US08138217B2
1-(ethoxycarbonyl)-3-[(4-morpholin ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride
5-tert-butyl 1-ethyl 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate (4.05 g) was added to a solution of hydrochloric acid in dioxane (88 mL, 4N solution). The resulting mixture was stirred at room temperature for 72 hours. Afterward, volatiles were removed by evaporation under reduced pressure and the residue triturated with diethyl ether, filtered, extensively washed with diethyl ether and dried under vacuum at 40° C. to give 3.4 g of the title compound, used in the next step without further purification.

reactant | 5-tert-butyl 1-ethyl 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate | 4.05 g | N1(CCOCC1)C1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)SC(=C3)C(=O)OC(C)(C)C)C=C1 | C24H28N4O6S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 4N, 88 mL | O1CCOCC1 | C4H8O2
product | 1-(ethoxycarbonyl)-3-[(4-morpholin ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride | 3.4 g | Cl.C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=CC=C(C=C2)N2CCOCC2)=O | InChI=1S/C20H20N4O6S.ClH/c1-2-30-20(28)24-18-14(11-15(31-18)19(26)27)16(22-24)21-17(25)12-3-5-13(6-4-12)23-7-9-29-10-8-23;/h3-6,11H,2,7-10H2,1H3,(H,26,27)(H,21,22,25);1H
